US07470689B2
c) Ethyl 6-(2-ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydropyridazine-4-carboxylate
A mixture of 2 g of diethyl 2-[2-(2-ethylaminopyrimidin-4-yl)-2-oxo-ethyl]-2-hydroxy-malonate, 485 mg of hydrazine hydrochloride and 20 ml of ethanol is stirred under reflux for 24 hours. After cooling while stirring, the precipitate is filtered off with suction, heated in 4 ml of N-methylpyrrolidinone (NMP) at 130° C. for 3 hours and, after cooling, mixed with 15 ml of n-heptane and stirred. The precipitate is then filtered off with suction and stirred with methylene chloride, again filtered off with suction and dried.

reactant | diethyl 2-[2-(2-ethylaminopyrimidin-4-yl)-2-oxo-ethyl]-2-hydroxy-malonate | 2 g | C(C)NC1=NC=CC(=N1)C(CC(C(=O)OCC)(C(=O)OCC)O)=O | C15H21N3O6
reactant | hydrazine hydrochloride | 485 mg | Cl.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 6-(2-ethylaminopyrimidin-4-yl)-3-oxo-2,3-dihydropyridazine-4-carboxylate | C(C)NC1=NC=CC(=N1)C=1C=C(C(NN1)=O)C(=O)OCC | C13H15N5O3
